US09126981B2
Synthesis of 2,2-diethoxy-N-(quinolin-8-ylmethyl)ethanamine (Compound IX-3)
According to the procedure described in the synthesis method of Compound IX-2 with the modification that the reaction was carried out overnight, 2,2-diethoxyethanamine (2.18 ml, 15 mmol) was reacted with 8-quinolinecarboxaldehyde (1.89 g, 12 mmol) to obtain the title compound (3.0 g, 73%).

reactant | 2,2-diethoxyethanamine | 15 mmol, 2.18 ml | C(C)OC(CN)OCC | C6H15NO2
reactant | 8-quinolinecarboxaldehyde | 12 mmol, 1.89 g | N1=CC=CC2=CC=CC(=C12)C=O | C10H7NO
product | 2,2-diethoxy-N-(quinolin-8-ylmethyl)ethanamine | 3.0 g, 73% | C(C)OC(CNCC=1C=CC=C2C=CC=NC12)OCC | C16H22N2O2
